US06384041B1
A mixture of 150 mg (0.317 mmol) of [[5-(aminooxoacetyl)-6-ethyl-7-([1,1′-biphenyl] -2-ylmethyl)-7H-pyrrolo[2,3-d]pyrimidin-4-yl]oxy]acetic acid methyl ester and 10 mL of methanol were treated with 0.95 mL of 2 M sodium hydroxide and heated to reflux for 4 hours. The reaction was cooled to ambient temperature then adjusted to pH 2 by the addition of 1 M HCl. The mixture was concentrated to a minimum volume and the residual liquid decanted from the solids. The solids were dried in vacuo to provide 92 mg (63%) of [[5-(aminooxoacetyl)-6-ethyl-7-([1,1′-biphenyl]-2-ylmethyl)-7H-pyrrolo[2,3-d]pyrimidin-4-yl]oxy]acetic acid as a tan foam. nmr (300 MHz, dmso-d6) δ1.15 (t, J=7.4 Hz, 3H), 2.64 (q, J=7.4 Hz, 2H), 4.90 (s, 2H), 5.46 (s, 2H), 6.60 (d, J=7.2 Hz, 1H), 7.2-7.6 (m, 9H), 7.99 (s, 1H), 8.43 (s, 1H)

reactant | [[5-(aminooxoacetyl)-6-ethyl-7-([1,1′-biphenyl] -2-ylmethyl)-7H-pyrrolo[2,3-d]pyrimidin-4-yl]oxy]acetic acid methyl ester | 0.317 mmol, 150 mg | COC(COC=1C2=C(N=CN1)N(C(=C2C(C(=O)N)=O)CC)CC2=C(C=CC=C2)C2=CC=CC=C2)=O | C26H24N4O5
reactant | sodium hydroxide | 2 M, 0.95 mL | [OH-].[Na+]
reactant | HCl | 1 M | Cl | ClH
solvent | methanol | 10 mL | CO | CH4O
product | [[5-(aminooxoacetyl)-6-ethyl-7-([1,1′-biphenyl]-2-ylmethyl)-7H-pyrrolo[2,3-d]pyrimidin-4-yl]oxy]acetic acid | 92 mg, 63% | NC(C(=O)C1=C(N(C=2N=CN=C(C21)OCC(=O)O)CC2=C(C=CC=C2)C2=CC=CC=C2)CC)=O | C25H22N4O5
